US09227973B2
Step A: 6-Phenyl-6,7-dihydroquinolin-8(5H)-one
To a stirred suspension of AlBr3 (4.80 g, 18 mmol) in benzene (4.8 mL, 55 mmol) was added 8-hydroxyquinoline (0.50 g, 3.4 mmol). The resulting mixture was saturated with HBr (g) and then stirred at 40° C. for 48 h. The reaction mixture was cooled to ambient temperature and poured onto ice (50 g). The resulting mixture was adjusted to pH=1-2 by addition of concentrated HCl and then was extracted with EtOAc (3×20 mL), discarding the organic extracts. The aqueous layer was adjusted to pH 12 by addition of NaOH (s), keeping the temperature below 10° C., and was then extracted with EtOAc (3×20 mL). These combined organic extracts were washed with brine (30 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to give the title compound in sufficient purity for use in the next step. MS: m/z=223.8 (M+1).

reactant | AlBr3 | 18 mmol, 4.80 g | [Al](Br)(Br)Br
reactant | benzene | 55 mmol, 4.8 mL | C1=CC=CC=C1 | C6H6
reactant | 8-hydroxyquinoline | 3.4 mmol, 0.50 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | HBr | Br | BrH
reactant | HCl | Cl | ClH
product | 6-Phenyl-6,7-dihydroquinolin-8(5H)-one | C1(=CC=CC=C1)C1CC=2C=CC=NC2C(C1)=O | C15H13NO
